US07247734B2
This compounds was synthesised in the same manner as described above. 4-Chlororesorcinol (0.87 g, 6 mmol), 4-bromophenyl acetic acid (1.29 g, 6 mmol), BF3Et2O (4 ml), PCl5 (1.9 g, 9.1 mmol), DMF (5 ml and 10 ml). The precipitate formed was filtered and re-crystallized from methanol to give 3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-chromen-4-one a flakey white solid (1.2 g, 56.8%); Rf 0.81 ethyl acetate.

reactant | 4-Chlororesorcinol | 6 mmol, 0.87 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | 4-bromophenyl acetic acid | 6 mmol, 1.29 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | PCl5 | 9.1 mmol, 1.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-chromen-4-one | BrC1=CC=C(C=C1)C1=COC2=CC(=C(C=C2C1=O)Cl)O | C15H8BrClO3
